US09290503B2
(R)-1-Amino-3-(3-chloro-2,4-dimethyl-phenoxy)-propan-2-ol
(R)-1-Amino-3-(3-chloro-4-methoxy-2-methyl-phenoxy)-propan-2-ol tan solid, 0.51 g (starting from 3.0 mmol of phenol).

reactant | (R)-1-Amino-3-(3-chloro-4-methoxy-2-methyl-phenoxy)-propan-2-ol | NC[C@H](COC1=C(C(=C(C=C1)OC)Cl)C)O | C11H16ClNO3
reactant | phenol | 3.0 mmol | C1(=CC=CC=C1)O | C6H6O
product | (R)-1-Amino-3-(3-chloro-2,4-dimethyl-phenoxy)-propan-2-ol | NC[C@H](COC1=C(C(=C(C=C1)C)Cl)C)O | C11H16ClNO2
